US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}methanone
Following general procedure A-2, tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate (0.120 mmol) was reacted with TFA (2 mL) to afford the desired product (30 mg, 51% over two steps) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.35 (s, 1H), 8.48 (s, 1H), 8.28 (d, J=8.7 Hz, 1H), 8.00 (d, J=8.7 Hz, 1H), 7.75 (s, 2H), 4.52 (s, 1H), 2.84 (s, 1H), 2.73 (s, 2H), 2.53-2.46 (m, 2H), 2.38-2.28 (m, 2H), 1.88-1.77 (m, 2H), 1.65-1.58 (m, 2H), 1.33-1.20 (m, 4H); ESI MS m/z 484 [C26H27Cl2N3O2+H]+; HPLC>99% (AUC), tR=9.66 min.

reactant | tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate | 0.120 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C)C1=CC(=C(C(=C1)Cl)O)Cl | C31H35Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}methanone | 30 mg, 51% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC)C1=CC(=C(C(=C1)Cl)O)Cl | C26H27Cl2N3O2
